US08981084B2
(4-((2-(4-Fluorophenyl)oxazol-4-yl)methyl)piperazin-1-yl)(3-(5-(trifluoromethyl)-1,2,4-oxadiazol-3-yl)phenyl)methanone
This compound was synthesized from 2-(4-fluorophenyl)-4-(piperazin-1-ylmethyl)oxazole TFA salt and 3-(5-(trifluoromethyl)-1,2,4-oxadiazol-3-yl)benzoic acid as described for example 37 step 3 (34 mg, yield 14%). 1H NMR (400 MHz, CDCl3) δ 8.19-8.17 (m, 2H), 8.06-8.03 (dd, J=8.7 Hz, 5.1 Hz, 2H), 7.63-7.57 (m, 3H), 7.17-7.12 (t, J=8.7 Hz, 2H), 3.87 (m, 2H), 3.59 (s, 2H), 3.50 (m, 2H), 2.68 (m, 2H), 2.54 (m, 2H). MS (ESI) m/z: Calculated for C24H19F4N6O3: 501.14. found: 502.1 (M+H)+

reactant | 2-(4-fluorophenyl)-4-(piperazin-1-ylmethyl)oxazole TFA salt | OC(=O)C(F)(F)F.FC1=CC=C(C=C1)C=1OC=C(N1)CN1CCNCC1
reactant | 3-(5-(trifluoromethyl)-1,2,4-oxadiazol-3-yl)benzoic acid | FC(C1=NC(=NO1)C=1C=C(C(=O)O)C=CC1)(F)F | C10H5F3N2O3
product | (4-((2-(4-Fluorophenyl)oxazol-4-yl)methyl)piperazin-1-yl)(3-(5-(trifluoromethyl)-1,2,4-oxadiazol-3-yl)phenyl)methanone | yield 14% | FC1=CC=C(C=C1)C=1OC=C(N1)CN1CCN(CC1)C(=O)C1=CC(=CC=C1)C1=NOC(=N1)C(F)(F)F | C24H19F4N5O3
